US08802659B2
1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethanone
To a solution of 2-Bromo-6-(4-tert-butyl-cyclohexyloxy)-naphthalene (2 g, 0.006 mol) in mL dry THF stirring at −78° C., was added dropwise. The reaction was then stirred at −78° C. for minutes, yellow color results. 2,2,2-Trifluoro-N-methoxy-N-methyl-acetamide (1.0 mL, 0.0083 mol) in 10 mL THF was then added dropwise while the reaction was stirred at −78° C.

reactant | 2-Bromo-6-(4-tert-butyl-cyclohexyloxy)-naphthalene | 0.006 mol, 2 g | BrC1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C | C20H25BrO
reactant | 2,2,2-Trifluoro-N-methoxy-N-methyl-acetamide | 0.0083 mol, 1.0 mL | FC(C(=O)N(C)OC)(F)F | C4H6F3NO2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethanone | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C(C(F)(F)F)=O | C22H25F3O2
